US09062048B2
Step C: benzyl 4-(2-(tert-butyldimethylsilyl) thiazol-5-yl)-4-hydroxypiperidine-1-carboxylate
Into a 100 mL 3-necked round-bottom flask, was placed a solution of 2-(tert-butyldimethylsilyl) thiazole (1.58 g, 7.94 mmol, 1.00 equiv) in tetrahydrofuran (40 mL). This was followed by the addition of n-BuLi (3.7 mL, 1.20 equiv) dropwise with stirring at −78° C. in 1 hr. After half-hour, the benzyl 4-oxopiperidine-1-carboxylate (1.85 g, 7.94 mmol, 1.00 equiv) was added dropwise with stirring at −78° C. in 0.5 hr. The reaction mixture was stirred for 2 h at −78° C. in a liquid nitrogen bath. The reaction was then quenched by the addition of 50 mL of water. The resulting solution was extracted with 3×100 mL of ethyl acetate, and the combined organic layers washed with 2×100 mL of brine, dried (Na2SO4), and concentrated under vacuum. The residue was purified by chromatography over a silica gel column with ethyl acetate/petroleum ether (1:20-1:1). This resulted in 2 g (58%) of benzyl 4-(2-(tert-butyldimethylsilyl)thiazol-5-yl)-4-hydroxypiperidine-1-carboxylate as yellow oil.

reactant | 2-(tert-butyldimethylsilyl) thiazole | 7.94 mmol, 1.58 g, 1.00 equiv | [Si](C)(C)(C(C)(C)C)C=1SC=CN1 | C9H17NSSi
reactant | n-BuLi | 3.7 mL, 1.20 equiv | [Li]CCCC
reactant | benzyl 4-oxopiperidine-1-carboxylate | 7.94 mmol, 1.85 g, 1.00 equiv | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | benzyl 4-(2-(tert-butyldimethylsilyl) thiazol-5-yl)-4-hydroxypiperidine-1-carboxylate | [Si](C)(C)(C(C)(C)C)C=1SC(=CN1)C1(CCN(CC1)C(=O)OCC1=CC=CC=C1)O | C22H32N2O3SSi
